US09216943B2
Preparation of 3-nitro-1-(4-octylphenyl)propan-1-one (Formula VI)
Octanophenone (250 g) and dichloromethane (1250 mL) are charged into a round bottom flask at 25-30° C. and stirred. The mixture is cooled to −10° C. to −5° C. and triethylsilane (327.9 g) is added. A solution of titanium tetrachloride (244.1 g) in dichloromethane (1250 mL) is added over a period of 15 minutes and the obtained reaction mixture is maintained at 0-5° C. for 3 hours. The reaction mixture is filtered through a hyflo bed, washed with dichloromethane (500 mL) and the filtrate obtained is charged into a second round bottom flask. The reaction mass (filtrate) is cooled to −10° C. to −5° C. and aluminium chloride (213.2 g) is slowly added to the reaction mass over a period of 15 minutes. A solution of 3-chloropropionyl chloride (173.5 g) in dichloromethane (500 mL) is added over a period of 15 minutes and the obtained reaction mixture is maintained at −10° C. to −5° C. for 3 hours. Water (2500 mL) precooled to 0-10° C. is slowly added at the same temperature and the reaction mixture is stirred for about 1 hour at a temperature of 25-30° C. The organic layer is separated, washed with 5% sodium bicarbonate solution (1250 mL), followed by 20% brine solution (1250 mL) and the organic layer is concentrated under vacuum at 45° C. to obtain crude product (751 g). The crude product obtained and dimethyl formamide (1500 mL) are charged into a round bottom flask at 25-35° C. and stirred. Sodium nitrite (135.5 g) is added and reaction mixture is maintained at 30-35° C. for 3 hour. Water (2500 mL) and ethyl acetate (2500 mL) are added to the reaction mixture, stirred for 30 minutes. The organic layer is separated and the aqueous layer is extracted with ethyl acetate (500 mL). The organic layers are combined, washed with 5% brine solution (2×2500 mL) and concentrated under reduced pressure at 45° C. Hexane (500 mL) is added to the obtained compound and evaporated under reduced pressure at 45° C. to give the title compound.

reactant | Octanophenone | 250 g | C(CCCCCCC)(=O)C1=CC=CC=C1 | C14H20O
reactant | triethylsilane | 327.9 g | C(C)[SiH](CC)CC | C6H16Si
reactant | aluminium chloride | 213.2 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 3-chloropropionyl chloride | 173.5 g | ClCCC(=O)Cl | C3H4Cl2O
reactant | Sodium nitrite | 135.5 g | N(=O)[O-].[Na+]
solvent | dichloromethane | 1250 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 500 mL | ClCCl | CH2Cl2
catalyst | titanium tetrachloride | 244.1 g | [Ti](Cl)(Cl)(Cl)Cl
solvent | dichloromethane | 1250 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | 2500 mL | C(C)(=O)OCC | C4H8O2
solvent | Water | 2500 mL | O | H2O
solvent | dimethyl formamide | 1500 mL | CN(C=O)C | C3H7NO
solvent | Water | 2500 mL | O | H2O
product | 3-nitro-1-(4-octylphenyl)propan-1-one | [N+](=O)([O-])CCC(=O)C1=CC=C(C=C1)CCCCCCCC | C17H25NO3
